US08975443B2
4-Nitrobenzophenone
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged with 4-chlorobenzophenone (100 mg, 0.462 mmol, 1 equivalent), sodium nitrite (63.7 mg, 0.923 mmol, 2 equivalents), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (0.005 or 0.0025 equivalents) and 7,7,9,9-tetramethyl-8-(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)-1,4-dioxa-8-phosphaspiro[4.5]decane (0.012 or 0.006 equivalents, respectively). The solids were slurried in t-butyl alcohol (0.84 mL) before adding tris[2-(2-methoxyethoxy)ethyl]amine (TDA-1) (7.4 μL, 0.023 mmol, 0.05 equivalents). The vial was sealed with a crimp top and placed in a heating block at 130° C. After indicated reaction time, the vial was cooled to room temperature and brought out of the glovebox. The reaction solution was diluted with tetrahydrofuran (2 mL) and filtered through a pad of diatomaceous earth into a tared 125-mL Erlenmeyer flask. The vial was rinsed with tetrahydrofuran (5×1 mL) before the filter cake was washed with tetrahydrofuran (5 mL). A wt % analysis was performed on the filtrate and an assay yield was measured.

reactant | 4-chlorobenzophenone | 0.462 mmol, 100 mg, 1 equivalent | ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9ClO
reactant | sodium nitrite | 0.923 mmol, 63.7 mg, 2 equivalents | N(=O)[O-].[Na+]
reactant | 7,7,9,9-tetramethyl-8-(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)-1,4-dioxa-8-phosphaspiro[4.5]decane | CC1(CC2(OCCO2)CC(P1C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)(C)C)C | C34H51O4P
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 0.023 mmol, 7.4 μL, 0.05 equivalents | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | t-butyl alcohol | 0.84 mL | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0025 equivalents | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Nitrobenzophenone | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9NO3
